US06403584B1
To a solution of 5.3 g (35 mmol) of 3-dimethylamino-anisole in 25 mL of dry THF at −78° C. was added 19 mL (47 mmol) of a 2.5M solution of n-butyl lithium in hexanes. The reaction mixture was stirred for 1 hour before removing the ice bath and warming to room temperature for 90 minutes. The solution was cooled to −78° C., treated with 8.75 g (84 mmol) of trimethyl orthoborate, and then stirred for one hour before warming to room temperature for one hour. The reaction was quenched by the addition of 20 mL of water and sufficient acetic acid to neutralize the mixture. The reaction mixture was extracted with ethyl acetate (3×30 mL), and the combined organic extracts were extracted with 1N NaOH solution (4×15 mL). The combined aqueous extracts were acidified with acetic acid and extracted with EtOAc (3×20 mL). The organic phase was washed with brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to give 2-methoxy-6-dimethylamino-phenylboronic acid.

reactant | 3-dimethylamino-anisole | 35 mmol, 5.3 g | CN(C=1C=C(C=CC1)OC)C | C9H13NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | trimethyl orthoborate | 84 mmol, 8.75 g | B(OC)(OC)OC | C3H9BO3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-methoxy-6-dimethylamino-phenylboronic acid | COC1=C(C(=CC=C1)N(C)C)B(O)O | C9H14BNO3
